US05780472
1-[(2-ethoxy-5-ethyl-6-methylpyridin-3-yl)aminocarbonyl]-4-(2-ethoxyphenyl) piperazin:
Phenyl-N-(2-ethoxy-5-ethyl-6-methylpyridin-3-yl)carbamate and 1-(2-ethoxyphenyl)piperazine were reacted by the same way with the example 1 to obtain the titled compound.

reactant | Phenyl-N-(2-ethoxy-5-ethyl-6-methylpyridin-3-yl)carbamate | C1(=CC=CC=C1)OC(NC=1C(=NC(=C(C1)CC)C)OCC)=O | C17H20N2O3
reactant | 1-(2-ethoxyphenyl)piperazine | C(C)OC1=C(C=CC=C1)N1CCNCC1 | C12H18N2O
product | 1-[(2-ethoxy-5-ethyl-6-methylpyridin-3-yl)aminocarbonyl]-4-(2-ethoxyphenyl) piperazin | yield: 79% | C(C)OC1=NC(=C(C=C1NC(=O)N1CCN(CC1)C1=C(C=CC=C1)OCC)CC)C | C23H32N4O3
